US04000275
6-Acetyl-3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one and acetyl chloride.

reactant | 3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one | ClC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C14H8ClN3O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 6-Acetyl-3-chlorobenzimidazo[2,1-b]quinazolin-12(6H)one | C(C)(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)Cl | C16H10ClN3O2
